US07323460B2
Step 8: 5-(1,1-Dioxido-1,2-thiazinan-2-yl)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide
A solution of 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carboxylic acid (1.00 g, 3.09 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.77 g, 4.02 mmol), and 1-hydroxy-7-azabenzotriazole (0.55 g, 4.02 mmol) in degassed dry DMP (20 mL) was aged for 30 minutes to preform the activated ester. Triethylamine (0.47 mL, 3.40 mmol) and {4-fluoro-2-[(methylamino)carbonyl]phenyl}-methanaminium chloride (0.74 g, 3.40 mmol) were added and the reaction stirred for 30 minutes. The reaction was poured into water, the pH was adjusted to 10 using 1N NaOH, and resulting solution was extracted several times with CHCl3. The combined organic extracts were dried over Na2SO4′, filtered, and concentrated to dryness in vacuo. The residue was partitioned between basic water (pH=10 using 1N NaOH) and ether. The layers were separated and the aqueous layer was extracted twice more with ether. The aqueous layer was then acidified to pH=4 using 1N HCl and extracted several times with CHCl3. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to a brown oil. Methanol was added to the flask and the flask was sonicated for 5 minutes. Solids crashed out of the solution upon sonication and were collected by vacuum filtration to afford the title compound as a whitish solid.

reactant | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carboxylic acid | 3.09 mmol, 1.00 g | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)O)O)=O | C13H13N3O5S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 4.02 mmol, 0.77 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 4.02 mmol, 0.55 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | Triethylamine | 3.40 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | {4-fluoro-2-[(methylamino)carbonyl]phenyl}-methanaminium chloride | 3.40 mmol, 0.74 g | [Cl-].FC1=CC(=C(C=C1)C[NH3+])C(=O)NC
reactant | NaOH | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(1,1-Dioxido-1,2-thiazinan-2-yl)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)C(=O)NC)O)=O | C22H22FN5O5S
